US03965146
p-Biphenylyloxybenzovl Chloride "Monomer"
The subject compound was prepared by the reaction of thionyl chloride with p-(4-biphenylyloxy)benzoic acid derived by oxidation from p-(4-biphenylyloxy) toluene. The latter compound is secured by the Ullmann condensation of p-chlorotoluene and biphenyl-4-ol. The procedure was as follows:

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | p-(4-biphenylyloxy)benzoic acid | C1(=CC=C(C=C1)OC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C19H14O3
reactant | p-(4-biphenylyloxy) toluene | C1(=CC=C(C=C1)OC1=CC=C(C=C1)C)C1=CC=CC=C1 | C19H16O
reactant | p-chlorotoluene | ClC1=CC=C(C=C1)C | C7H7Cl
reactant | biphenyl-4-ol | C1(=CC=C(C=C1)O)C1=CC=CC=C1 | C12H10O
product | p-Biphenylyloxybenzovl Chloride | C1(=C(C=CC=C1)OC1=C(C(=O)Cl)C=CC=C1)C1=CC=CC=C1 | C19H13ClO2
